RIPPLE CARRY ADDER

.option filetype=ascii

***LIBRERIE***
.INCLUDE ST65LIKE_cell_library_v2020_1.net
.INCLUDE 16nm_HP.pm

***PARAMETRI GLOBALI***
.PARAM vthVARn=0.3423
.PARAM vthVARp=-0.23122
.PARAM ndepVARn=3.96e+018
.PARAM ndepVARp=1.68e+018
.PARAM toxpVAR=5.21e-010
.PARAM Lmin=51.71336n
.PARAM Wmin=36.05883n
.PARAM XXX=1
.PARAM tr=50p

***DEFINIZIONE DEL SOTTOCIRCUITO***
.subckt RCA_SUB 0 Vdd sum cout cin ain bin XX=1 	
	xfa0 0 Vdd sum cout cin ain bin FA_SUB XX=XXX
.ends RCA_SUB

***DICHIARAZIONE DEL COMPONENTE***
xrca 0 Vcc S C C0 A0 B0 RCA_SUB XX=XXX

.PRINT tran V(A0) V(B0) V(Cin) V(S0) V(Cout)
.TRAN 0.1p 200p

***
*V0 A0 0 PWL(0 0 200p 0)
V0 A0 0 PWL(0 0 10p 0 11p 1 200p 1)

*V1 B0 0 PWL(0 0 200p 0)
V1 B0 0 PWL(0 0 10p 0 11p 1 200p 1)

*V2 C0 0 PWL(0 0 200p 0)
V2 C0 0 PWL(0 0 10p 0 11p 1 200p 1)



V_dd Vcc 0 DC 1

.end
