*MOLTIPLICATORE CARRY SAVE

.option filetype=ascii

.INCLUDE ST65LIKE_cell_library_v2020_1.net
.INCLUDE 16nm_HP.pm
.INCLUDE param.net

.subckt AND_ARRAY_SUB	0 Vdd out0 x0 y	XX=1
xand0	0 Vdd out0 x0 y	AND2_SUB XX=XXX
.ends 

.subckt ADD_ARRAY_SUB	0 Vdd sum0  Cout0 a0 b0 	XX=1
xadd0	 0 vdd sum0 cout0 cin0 b0 a0	 FA_SUB XX=XXX
.ends 

.subckt MCS_SUB	0 Vdd out0 x0 y0 	XX=1
xand_Level0	 0 vdd	z0 0out1 	x0 	y0	AND_ARRAY_SUB XX = XXX
xand_Level1	 0 vdd	1out0 	x0 	y1	AND_ARRAY_SUB XX = XXX
.ends 

xmcs1 0 Vcc xz0 xz1 xx0 xy0 MCS_SUB XX = XXX

.TRAN 0.1p 500p
VinX0 X0 0 1
VinY0 Y0 0 0
V_dd Vcc 0 1
.end